US06960601B2
t-Butyl 2-(2-chlorophenyl)-5-methyl-1-(4-nitrophenyl)-1H-imidazole-4-carboxylate (69 mg, 0.17 mmol) was dissolved in dry dichloromethane (2 mL) and treated dropwise with trifluoroacetic acid (2 mL). After stirring at rt for 2 h, the solution was concentrated to give 2-(2-chlorophenyl)-5-methyl-1-(4-nitrophenyl)-1H-imidazole-4-carboxylic acid as a yellow foam, which was used without purification in the preparation of Example 23.

reactant | t-Butyl 2-(2-chlorophenyl)-5-methyl-1-(4-nitrophenyl)-1H-imidazole-4-carboxylate | 0.17 mmol, 69 mg | ClC1=C(C=CC=C1)C=1N(C(=C(N1)C(=O)OC(C)(C)C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C21H20ClN3O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(2-chlorophenyl)-5-methyl-1-(4-nitrophenyl)-1H-imidazole-4-carboxylic acid | ClC1=C(C=CC=C1)C=1N(C(=C(N1)C(=O)O)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H12ClN3O4
